US04321398
2,2-Dimethyl-3-(2-thienyl)propanoic Acid (Va; R1, R2 =H)
A mixture of 57% oil emulsion of sodium hydride (3.14 g., 0.074 mole), THF (68 ml.) and diisopropylamine (6.87 g., 0.068 mole) was placed under N2. Isobutyric acid (5.98 g., 0.068 mole) was added dropwise. The mixture was heated at reflux for 15 min. to complete formation of the salt. After cooling at 0°, a solution of 1.6 molar n-butyllithium in hexane (42 ml., 0.068 mole) was added in small portions while holding the temperature below 10°. The resulting turbid solution was kept at 0° for 15 min. and then warmed to 30°-35° for 30 min. After again cooling to 0°, 2-chloromethylthiophene (9 g., 0.068 mole) was added dropwise over 15-20 min. while holding temperature between 0° and 5°. The mixture was kept at 0° for 30 min., in the range of 30°-35° for 1 hr. and was then cooled to 15°. Water (90 ml.) was added dropwise and the aqueous layer was separated. The organic phase was washed with a mixture of water (50 ml.) and Et2O (75 ml.). The aqueous extracts were combined, washed with Et2O and then acidified with conc. HCl. The oily product was extracted with Et2O and the combined ET2O extracts were dried over MgSO4. Evaporation of the Et2O in vacuo gave 11.4 g. (91%) of product of sufficient purity to be used for conversion into (IVa). The NMR spectrum is consistent with the assigned structure.

reactant | sodium hydride | 0.074 mole, 3.14 g | [H-].[Na+]
reactant | diisopropylamine | 0.068 mole, 6.87 g | C(C)(C)NC(C)C | C6H15N
reactant | Isobutyric acid | 0.068 mole, 5.98 g | C(C(C)C)(=O)O | C4H8O2
reactant | n-butyllithium | 1.6 molar | C(CCC)[Li]
reactant | hexane | 0.068 mole, 42 ml | CCCCCC | C6H14
reactant | 2-chloromethylthiophene | 0.068 mole, 9 g | ClCC=1SC=CC1 | C5H5ClS
solvent | Water | 90 ml | O | H2O
solvent | THF | 68 ml | C1CCOC1 | C4H8O
product | 2,2-Dimethyl-3-(2-thienyl)propanoic Acid | CC(C(=O)O)(CC=1SC=CC1)C | C9H12O2S
